US06235738B1
b) [2-(2-Dimethylamino-ethoxy)-phenyl]-oxo-acetaldehyde
A solution of 1-[2-(2-dimethylamino-ethoxy)-phenyl]-ethanone (4.35 g) in dimethylsulfoxide (8.8 ml) was added with 48% HBr (1.8 ml). The mixture was stirred at 80° C. for 6 hours under nitrogen stream. Then it was poured into methylene chloride (50 ml) and dried over magnesium sulfate. The mixture was neutralized to pH 7 with solid sodium bicarbonate, then filtered and evaporated under high vacuum at low temperature. The title compound was used without further purification.

reactant | 1-[2-(2-dimethylamino-ethoxy)-phenyl]-ethanone | 4.35 g | CN(CCOC1=C(C=CC=C1)C(C)=O)C | C12H17NO2
reactant | HBr | 1.8 ml | Br | BrH
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | dimethylsulfoxide | 8.8 ml | CS(=O)C | C2H6OS
product | [2-(2-Dimethylamino-ethoxy)-phenyl]-oxo-acetaldehyde | CN(CCOC1=C(C=CC=C1)C(C=O)=O)C | C12H15NO3
